US06235787B1
A solution of 1.0 g of (E)-2(R)-[1(S)-(tertbutoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide and 0.41 g of phthalic anhydride in 50 ml of toluene was heated at reflux for 2 hours. The mixture was cooled and the solvent was evaporated and replaced with ethyl acetate. The ethyl acetate solution was washed with 2M aqueous hydrochloric acid, 5% aqueous sodium hydrogen carbonate and then with brine. The ethyl acetate phase was dried over anhydrous magnesium sulphate and the solvent was evaporated. The residue was trituated with diethyl ether to give 0.60 g of (E)-2(R)-[1(S)-(tertbutoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-N-phthalimidovaleramide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(tertbutoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide | 1.0 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN)CC(C)C | C21H32N2O3
reactant | phthalic anhydride | 0.41 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2(R)-[1(S)-(tertbutoxycarbonyl)-4-phenyl-3-butenyl]-4-methyl-N-phthalimidovaleramide | 0.60 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(C=2C(C1=O)=CC=CC2)=O)CC(C)C | C29H34N2O5
